US08193359B2
4-[(5-Furo[3,2-c]pyridin-2-yl-[1,2,4]oxadiazol-3-ylmethyl)amino]piperidine-1-carboxylic acid tert-butyl ester
A solution of C-(5-furo[3,2-c]pyridin-2-yl-[1,2,4]oxadiazol-3-yl)methylamine (Preparation 14, 350 mg, 1.62 mmol) and 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (322 mg, 1.62 mmol) in anhydrous CH2Cl2 (5 mL) was stirred for 10 min. Na(AcO)3BH (412 mg, 1.94 mmol) was added, then the mixture was stirred for 3 d. Standard aqueous work-up, followed by column chromatography (EtOAc-IH, 1:1) gave the title compound: m/z (ES+)=400.0 [M+H]+.

reactant | C-(5-furo[3,2-c]pyridin-2-yl-[1,2,4]oxadiazol-3-yl)methylamine | 1.62 mmol, 350 mg | O1C(=CC=2C=NC=CC21)C2=NC(=NO2)CN | C10H8N4O2
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 1.62 mmol, 322 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-[(5-Furo[3,2-c]pyridin-2-yl-[1,2,4]oxadiazol-3-ylmethyl)amino]piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NOC(=N1)C1=CC=2C=NC=CC2O1 | C20H25N5O4
